* /home/pavandheeraj1999/esim-workspace/hbp_sync/hbp_sync.cir

.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
v1  clk_a gnd pulse(0 1.8 0 0.15n 0.15n 1m 2m)
v2  clk_b gnd pulse(0 1.8 0 0.15n 0.15n 1m 3m)
v3  rst gnd pulse(0 1.8 0.1n 0.1n 0.1n 1m 1000m)
v4  pusle_in gnd pulse(0 1.8 0.1n 0.1n 0.1n 3m 40m)
* u5  clk_a clk_b rst pusle_in net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ adc_bridge_4
xsc1 nand_out ff_b2_out net-_sc1-pad3_ ? sky130_fd_pr__pfet_01v8 
xsc4 nand_out not_out net-_sc1-pad3_ ? sky130_fd_pr__pfet_01v8 
xsc2 nand_out ff_b2_out net-_sc2-pad3_ ? sky130_fd_pr__nfet_01v8 
xsc3 net-_sc2-pad3_ not_out gnd ? sky130_fd_pr__nfet_01v8 
xsc5 and_out nand_out net-_sc5-pad3_ ? sky130_fd_pr__pfet_01v8 
xsc6 and_out nand_out gnd ? sky130_fd_pr__nfet_01v8 
* u4  net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ net-_u4-pad7_ pavan_handshake_pulse_sync_update
v5 net-_sc1-pad3_ gnd  dc 1.8
v6 net-_sc5-pad3_ gnd  dc 1.8
* u6  net-_u4-pad5_ net-_u4-pad6_ net-_u4-pad7_ ff_b2_out not_out busy dac_bridge_3
* u2  clk_a plot_v1
* u3  clk_b plot_v1
* u8  nand_out plot_v1
* u9  and_out plot_v1
* u7  busy plot_v1
* s c m o d e
* u10  rst plot_v1
* u11  pusle_in plot_v1
* u12  ff_b2_out plot_v1
* u13  not_out plot_v1
a1 [clk_a clk_b rst pusle_in ] [net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ ] u5
a2 [net-_u4-pad1_ ] [net-_u4-pad2_ ] [net-_u4-pad3_ ] [net-_u4-pad4_ ] [net-_u4-pad5_ ] [net-_u4-pad6_ ] [net-_u4-pad7_ ] u4
a3 [net-_u4-pad5_ net-_u4-pad6_ net-_u4-pad7_ ] [ff_b2_out not_out busy ] u6
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             pavan_handshake_pulse_sync_update, NgSpice Name: pavan_handshake_pulse_sync_update
.model u4 pavan_handshake_pulse_sync_update(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_3, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.25e-03 100e-03 0e-03

* Control Statements 
.control
option noopalter
run
plot v(busy) v(pusle_in)+6 v(clk_a)+12
plot v(nand_out)

plot v(busy) v(and_out)+6 v(not_out)+12 v(ff_b2_out)+18 v(clk_b)+24
plot v(rst)
.endc
.end
